US06518423B1
(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetamidine
2.68 g of ammonium chloride was added to 20 ml of dry toluene in a nitrogen atmosphere. Then 36.5 ml of a 15% solution of trimethylaluminum in n-hexane was added thereto under stirring and ice-cooling. The reaction mixture was brought back to room temperature and 70 ml of dry toluene was further added. The resulting mixture was subjected to ultrasonication until the ammonium chloride disappeared completely. A 60 ml portion of the solution thus obtained was taken and 1.5 g of (10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetonitrile was added thereto. The obtained mixture was heated under reflux for 18 hours. After bringing back to room temperature, the reaction mixture was distributed into ethyl acetate and dilute hydrochloric acid and repeatedly extracted with water. The aqueous layer was washed with methylene chloride and the solvent contained in the solution was eliminated under reduced pressure. The obtained residue was purified by High-porous gel column chromatography (CHP20, mfd. by Mitsubishi Chemical Industries, Ltd., 75-15μ) (eluted with water/methanol) to thereby give 620 mg of the title compound as yellow crystals.

reactant | ammonium chloride | 2.68 g | [Cl-].[NH4+]
reactant | trimethylaluminum | C[Al](C)C
reactant | (10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetonitrile | 1.5 g | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CC#N | C12H8N4S
reactant | hydrochloric acid | Cl | ClH
solvent | n-hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (10H-Pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetamidine | 620 mg | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CC(=N)N | C12H11N5S
